US08623889B2
Step 4: 6-bromo-4-iodonicotinaldehyde
A mixture of (6-bromo-4-iodopyridin-3-yl)methanol (300 mg, 1.0 mmol) and pyridinium dichromate (720 mg, 1.9 mmol) in methylene chloride (4 mL) was stirred at room temperature for 4 hours. The reaction mixture was diluted with methylene chloride (20 mL), filtered over Celite, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-40% ethyl acetate in heptane) to afford the title compound as a white solid (180 mg, 60%), which was used in the next step without further purification.

reactant | (6-bromo-4-iodopyridin-3-yl)methanol | 1.0 mmol, 300 mg | BrC1=CC(=C(C=N1)CO)I | C6H5BrINO
reactant | pyridinium dichromate | 1.9 mmol, 720 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-4-iodonicotinaldehyde | 180 mg, 60% | BrC1=NC=C(C=O)C(=C1)I | C6H3BrINO
